US04499088
A solution of m-chloroperbenzoic acid (0.4 g) (purity: 80%) in ethyl acetate (5 ml) was added to a solution of a mixture (1.4 g) of benzhydryl 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)thiomethyl-3-cephem-4-carboxylate (syn isomer) and benzhydryl 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)thiomethyl-2-cephem-4-carboxylate (syn isomer) in ethyl acetate (10 ml) under ice-cooling and the resultant mixture was stirred for 1 hour at the same temperature. The resulting solution was washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride, successively. The organic layer was dried over magnesium sulfate and evaporated to give benzhydryl 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)thiomethyl-3-cephem-4-carboxylate-1-oxide (syn isomer) (1.3 g).

reactant | m-chloroperbenzoic acid | 0.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | benzhydryl 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)thiomethyl-3-cephem-4-carboxylate | 1.4 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2C=CC=3N(N2)C=NN3)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O)C=1N=CSC1 | C37H34N8O7S3
reactant | benzhydryl 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)thiomethyl-2-cephem-4-carboxylate | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(C(=CS2)CSC=2C=CC=3N(N2)C=NN3)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O)C=1N=CSC1 | C37H34N8O7S3
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)thiomethyl-3-cephem-4-carboxylate-1-oxide | 1.3 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)CSC=2C=CC=3N(N2)C=NN3)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O)C=1N=CSC1 | C37H34N8O8S3
